US05602253
(v) (3RS)-1-benzyl-3-(N-tert-butyloxycarbonylaminoethyl) pyrrolidine
To a mixture of 14.84 g (0.0726 mole) (3RS)-1-benzyl-3-aminoethyl pyrrolidine, 72.6 ml 1M NaOH-solution, 76 ml water and 145 ml THF was added 17.44 g (0.08 mole) di-tert-butyl dicarbonate and the mixture was stirred over night. The solution was concentrated and extracted three times with ethyl acetate. The combined organic layer was washed with brine, dried (Na2SO4), filtered and evaporated. The crude product was purified by flash chromatography using a stepwise gradient of CH2Cl2 /MeOH (95/5, 90/10) as eluent to yield 14.69 g (80%) of the product.

reactant | (3RS)-1-benzyl-3-aminoethyl pyrrolidine | 0.0726 mole, 14.84 g | C(C1=CC=CC=C1)N1CC(CC1)CCN | C13H20N2
reactant | NaOH | 1M, 72.6 ml | [OH-].[Na+]
reactant | water | 76 ml | O | H2O
reactant | di-tert-butyl dicarbonate | 0.08 mole, 17.44 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 145 ml | C1CCOC1 | C4H8O
product | (3RS)-1-benzyl-3-(N-tert-butyloxycarbonylaminoethyl) pyrrolidine | 14.69 g, 80% | C(C1=CC=CC=C1)N1CC(CC1)CCNC(=O)OC(C)(C)C | C18H28N2O2
